US04604397
To a suspension of 2.0 g sodium hydride in 100 ml of dry tetrahydrofuran is added with stirring a solution of 20 g of trans-3-bromo-4-hydroxy-6-methoxy-3,4-dihydro-2H-[1]-benzopyran in 200 ml of dry tetrahydrofuran in a dropwise fashion. After 30 minutes stirring at room temperature, the reaction mixture is filtered through filter-cel and the solvent is removed in vacuo. The residue is dissolved in 100 ml of toluene, 1.0 g of anhydrous zinc iodide is added and the mixture is heated at 80° for 1 hour. The reaction mixture is filtered through 120 g of silica gel with methylene chloride as the eluent to afford a product which is recrystallized from ether to give 6-methoxy-2H-[1]-benzopyran-3-one, m.p. 67°-72°.

reactant | sodium hydride | 2.0 g | [H-].[Na+]
reactant | trans-3-bromo-4-hydroxy-6-methoxy-3,4-dihydro-2H-[1]-benzopyran | 20 g | Br[C@@H]1COC2=C([C@H]1O)C=C(C=C2)OC | C10H11BrO3
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 6-methoxy-2H-[1]-benzopyran-3-one | COC=1C=CC2=C(CC(CO2)=O)C1 | C10H10O3
